US09169259B2
To a stirred solution of (S)-4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (90 mg), HOBT (49 mg, 0.365 mmol), Et3N (49 mg, 0.486 mmol) and EDCI (70 mg, 0.365 mmol) in dichloromethane (20 mL) and dioxane (100 mL) was bubbled NH3 gas until saturation and the mixture stirred for 16 h at room temperature. The mixture was filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography (silica gel, 10 g, 200-300 mesh, MeOH:dichloromethane=1:50) to afford (S)-4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamide (38 mg, 47%) as a yellow solid. 1H NMR (300 MHz, CD3OD): δ 8.74 (s, 1H), 7.94-7.86 (m, 5H), 7.49 (s, 1H), 7.32 (t, 1H, J=8.1 Hz), 6.18 (d, 1H, J=6.0 Hz), 5.98 (d, 1H, J=8.4 Hz), 4.17-4.14 (m, 1H), 3.55-3.49 (m, 1H), 3.38-3.32 (m, 1H), 2.07-1.93 (m, 3H), 1.68 (s, 1H), 1.10 (d, 3H, J=6.0 Hz). LC-MS: [M+H]+, 414, tR=1.505 min, HPLC: 97.48% at 214 nm, 97.67% at 254 nm, tR=6.027 min.

reactant | (S)-4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 90 mg | C[C@@H]1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C(=O)O)C=C1)C=CN2 | C23H22N6O2
reactant | HOBT | 0.365 mmol, 49 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 0.486 mmol, 49 mg | CCN(CC)CC | C6H15N
reactant | EDCI | 0.365 mmol, 70 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NH3 | N | H3N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | (S)-4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamide | 38 mg, 47% | C[C@@H]1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C(=O)N)C=C1)C=CN2 | C23H23N7O
